US07858658B2
G. 5-Chloro-N-[(1S,2S)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide
To a stirred solution of (2S,3S)-2-amino-3-ethyl-5,5,5-trifluoropentan-1-ol (145 mg, 0.78 mmol), triethylamine (0.22 mL, 1.56 mmol) and methylene chloride (5 mL) cooled to 0° C., was added 5-chlorothiophene-2-sulfonyl chloride (225 mg, 0.861 mmol) as a solution in methylene chloride (5 mL), dropwise. After 15 min, the ice bath was removed and the reaction mixture was allowed to attain 25° C. overnight. Additional methylene chloride (15 mL) was added and the reaction was quenched by pouring it into saturated sodium bicarbonate solution (25 mL). The organic phase was separated and washed sequentially with 1N HCl solution, H2O, brine and dried over MgSO4. The organic phase was filtered and evaporated to produce a crude oil (0.250 g) that was purified via flash chromatography, eluent: 1:6 ethyl acetate-hexane. This produced the title compound 5-chloro-N-[(1S,2S)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide as an oil (140 mg, 53.8%). The crude oil was further purified by recrystallization from 1:4 EtOAc-heptane. The mixed solvent system was added to 5-chloro-N-[(1S,2S)-4,4,4-trifluoro-1-(hydroxymethyl)-2-methylbutyl]thiophene-2-sulfonamide, heated to obtain a solution, allowed to cool to 25° C. for 3 h and then stored at 0° C. for 19 h. A crystalline white solid precipitated which was filtered and washed with ice-cold heptane to afford 5-chloro-N-[(1R,2S)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide as a white crystalline solid (50 mg, 19.2%, chiral purity 91%, analytical purity 100%). Mass Spectrum (−ESI): 364 (M−H)−.

reactant | (2S,3S)-2-amino-3-ethyl-5,5,5-trifluoropentan-1-ol | 0.78 mmol, 145 mg | N[C@H](CO)[C@H](CC(F)(F)F)CC | C7H14F3NO
reactant | triethylamine | 1.56 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-sulfonyl chloride | 0.861 mmol, 225 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-[(1S,2S)-2-ethyl-4,4,4-trifluoro-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide | 140 mg, 53.8% | ClC1=CC=C(S1)S(=O)(=O)N[C@@H]([C@H](CC(F)(F)F)CC)CO | C11H15ClF3NO3S2
